### PR TITLE
Verify u320_sub function.

### PR DESCRIPTION
**Pull request by klinashka**
This PR provides the definition, specification and proof for correctness of the specification for `u320_sub` function, which performs big integer subtraction for 320 bits. 

The function takes as input two 320-bit unsigned integers `x` and `y`, and another 320-bit unsigned integer. The function stores `x` - `y` into the third integer and returns the underflow bit.  The specification assumes neither input integers alias.

### CODE REVIEW

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 1]
```diff
@@ -0,0 +1,59 @@
...
+From bedrock2 Require Import BasicC64Semantics WeakestPrecondition ProgramLogic.
+Import ListNotations ProgramLogic.Coercions SeparationLogic Array Scalars.
+Local Open Scope string_scope. Local Open Scope Z_scope.
+
+Local Notation eval := (fold_right (fun (a : word) (s : Z) => a + 2^64*s) 0).
+Local Notation array := (array scalar (word.of_Z 8)).
+
+(** * Specification *)
+
+Local Instance spec_of_u320_sub : spec_of "u320_sub" :=
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: You will use this in other files, so we should mark it with #[export] instead of Local.

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 2]
```diff
@@ -0,0 +1,59 @@
...
+            length x = 5%nat /\ length y = 5%nat /\ length r = 5%nat;
+        ensures T M := T = t /\ exists (r : list word), 
+            M =* array p_x x ⋆ array p_y y ⋆ array p_r r ⋆ R /\
+            length r = 5%nat /\ eval r - 2^320*b = eval x - eval y
+    }.
+
+Require Import bedrock2.NotationsCustomEntry bedrock2Examples.full_sub.
+
+(** * Implementation *)
+Definition u320_sub := func! (p_x, p_y, p_r) ~> b {
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: By current convention in P256, the output pointer is the leftmost parameter, can you put p_r to the left?

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+    store(p_r + $8 + $8 + $8 + $8, d4)
+}.
+
+Import coqutil.Tactics.Tactics bedrock2.ZnWords.
+
+Local Ltac lists_into_elements := repeat match goal with
+  | H : length ?l = ?n |- _ =>  constr_eq true ltac:(isnatcst n);
+  let x := fresh l "0" in destruct l as [|x l]; inversion H; clear H end.
+
+Local Existing Instance spec_of_full_sub.
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: Was this needed? I think you should be able to remove it because you import full_sub and the spec is marked as export.

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 4]
```diff
@@ -0,0 +1,59 @@
...
+    repeat (straightline || straightline_call || ZnWords).
+    eexists [_ ; _ ; _ ; _ ; _]. intuition try ecancel_assumption. unfold fold_right. ZnWords.
+Qed.
+
+(** * Linking Proof *)
+From coqutil Require Import WithBaseName.
+Definition u320_sub_funcs := &[, u320_sub; br_full_sub].
+
+Lemma link_full_sub : spec_of_u320_sub (Interface.map.of_list u320_sub_funcs).
+Proof. apply u320_sub_correct; try apply full_sub_ok; trivial. Qed.
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: nit: Make sure you have newlines at end of file, in .gitignore too.

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 5]
```diff
@@ -0,0 +1,59 @@
...
+Import coqutil.Tactics.Tactics bedrock2.ZnWords.
+
+Local Ltac lists_into_elements := repeat match goal with
+  | H : length ?l = ?n |- _ =>  constr_eq true ltac:(isnatcst n);
+  let x := fresh l "0" in destruct l as [|x l]; inversion H; clear H end.
+
+Local Existing Instance spec_of_full_sub.
+Lemma u320_sub_correct : program_logic_goal_for_function! u320_sub.
+Proof.
+    repeat straightline. lists_into_elements. unfold array in *.
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: optional: Avoid unfold, prefer cbn [...] here and below. It's not really necessary here though, just a useful habit.

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 6]
```diff
@@ -0,0 +1,59 @@
...
+    repeat (straightline || straightline_call || ZnWords).
+    eexists [_ ; _ ; _ ; _ ; _]. intuition try ecancel_assumption. unfold fold_right. ZnWords.
+Qed.
+
+(** * Linking Proof *)
+From coqutil Require Import WithBaseName.
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: optional: My preference is usually to put all Require [Import] lines at the top, sorted by project and then alphabetically. Makes it a bit easier to keep track of what you used and what may not be needed anymore after a change. But lots of code already does not follow this convention, up to you.

File: .gitignore [hunk 7]
```diff
@@ -260,3 +260,6 @@ fiat-html/version.js
 
 # Misc
 native_compute_profile_*.data
+
+#VS Code
```
Comment (miriampolzer) [inline .gitignore]: nit: space after #

**Review by miriampolzer — COMMENTED** [review]
Looks good, thanks for creating this!

File: src/Bedrock/P256/modinv/u320_sub.v (hunk 1 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_sub.v]: That is a good point. I have made the change.

File: src/Bedrock/P256/modinv/u320_sub.v (hunk 2 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_sub.v]: I have moved `p_r` as the leftmost parameter.

File: src/Bedrock/P256/modinv/u320_sub.v (hunk 3 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_sub.v]: I have checked and indeed it was not needed. Therefore, I removed it.

File: src/Bedrock/P256/modinv/u320_sub.v (hunk 5 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_sub.v]: Using `cbn [...]` seemed to break the proof. On the other hand, using `cbv [...]` did not affect the proof. Therefore, I have used that instead.

File: src/Bedrock/P256/modinv/u320_sub.v (hunk 6 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_sub.v]: That is a good point! I have moved all the imports to the front and cleaned them up a bit.

File: src/Bedrock/P256/modinv/u320_sub.v [hunk 8]
```diff
@@ -0,0 +1,57 @@
...
+    unpack! d4, b = br_full_sub(load(p_x + $8 + $8 + $8 + $8) , load(p_y + $8 + $8 + $8 + $8) , b);
+
+    store(p_r, d0);
+    store(p_r + $8, d1);
+    store(p_r + $8 + $8, d2);
+    store(p_r + $8 + $8 + $8, d3);
+    store(p_r + $8 + $8 + $8 + $8, d4)
+}.
+
+Local Existing Instance spec_of_full_sub.
```
Comment (miriampolzer) [inline src/Bedrock/P256/modinv/u320_sub.v]: Was this needed after all, or did you leave it here accidentally?

**Review by miriampolzer — APPROVED** [review]

File: src/Bedrock/P256/modinv/u320_sub.v (hunk 8 above)
Comment (klinashka) [reply src/Bedrock/P256/modinv/u320_sub.v]: I thought I had already removed it. However, it should be good now!
